US03941883
The mixture of 2.83 g of N-(4-nitro-o-tolyl)-pyridine-2,3-dicarboximide, 200 ml of ethyl acetate and 1.6 g of prewashed Raney nickel is hydrogenated at 3.1 atm. and room temperature until the hydrogen uptake ceases. It is filtered, evaporated, the residue taken up in chloroform, the solution treated with charcoal, filtered, evaporated and the residue recrystallized from methanol, to yield the N-(4-amino-o-tolyl)-pyridine-2,3-dicarboximide of the formula ##SPC6##

reactant | N-(4-nitro-o-tolyl)-pyridine-2,3-dicarboximide | 2.83 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(=O)C2=NC=CC=C2C1=O | C14H9N3O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1.6 g | [Ni] | Ni
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-pyridine-2,3-dicarboximide | NC1=CC(=C(C=C1)C)N1C(=O)C2=NC=CC=C2C1=O | C14H11N3O2
